US03971797
A solution of 0.4 moles sodium in absolute dimethylformamide is saturated by passing in hydrogen sulfide for 5 hours. There is then added in portions 0.05 moles of 2-methyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-5-chloromethylpyridine and the mixture stirred overnight at room temperature with hydrogen sulfide slowly bubbling through the mixture. The reaction mixture is then concentrated in vacuo and taken up between ethyl acetate and water containing acetic acid. The ethyl acetate layer is removed, dried over sodium sulfate and concentrated to give 2-methyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-5-mercaptomethylpyridine.

reactant | sodium | 0.4 moles | [Na] | Na
reactant | 2-methyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-5-chloromethylpyridine | 0.05 moles | CC1=NC=C(C(=C1OC(=O)OCC)COC(=O)OCC)CCl | C14H18ClNO6
reactant | hydrogen sulfide | S | H2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-methyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-5-mercaptomethylpyridine | CC1=NC=C(C(=C1OC(=O)OCC)COC(=O)OCC)CS | C14H19NO6S
